US06005142
Preparation of 5-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methyl-4-thiazolidinone
To 3.22 g (9.2 mmol) of 5-{[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]}-methyl-2-thioxo-4-thiazolidinone, in a 25 mL pressure tube equipped with magnetic stir bar, 13 mL of methanol was added. The resulting reaction mixture was cooled to 0° C. and ammonia gas (1.6 g, 91 mmol) was slowly added. Formalin (0.76 mL, 0.8 g, 10 mmol) was then added. The pressure tube was sealed and heated to 80° C. for approximately 17 hours with stirring. Reaction was deemed complete when the amount of thiolamide was below 4%, as determined by HPLC. Deionized water (12 mL) was then added in a drop-wise manner, followed by acetic acid (6 mL). After 30 min, the reaction mixture was cooled to 0° C. for 1 hour. The reaction mixture was filtered and the resulting crystalline product was dissolved in ethyl acetate (5 vol). Dissolution was facilitated by heating to 66° C. The resulting solution was filtered and seeded with a small amount of 5-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methyl-4-thiazolidinone as the solution was slowly cooled to ambient temperature. Crystallization ensued and the resultant slurry was stirred for approximately 4 hours. The slurry was concentrated under reduced pressure (1 vol ethyl acetate) and stirred for an additional 16 hours. The slurry was filtered and the wet cake was washed with water (2×10 mL) and 1/4 ethyl acetate/hexane (2×10 mL). The product was dried in an oven at 50° C. to obtain 2.07 g (70% yield) of title compound.

reactant | 5-{[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]}-methyl-2-thioxo-4-thiazolidinone | 9.2 mmol, 3.22 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1C(N(C(S1)=S)C)=O | C18H25NO2S2
reactant | ammonia | 91 mmol, 1.6 g | N | H3N
reactant | Formalin | 10 mmol, 0.76 mL, 0.8 g | C=O | CH2O
reactant | thiolamide | S1C(=CC=C1)C(=O)N | C5H5NOS
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
solvent | water | 12 mL | O | H2O
solvent | methanol | 13 mL | CO | CH4O
product | 5-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methyl-4-thiazolidinone | 2.07 g, 70% yield | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CC1C(NCS1)=O | C18H27NO2S
